US04730052
10.2 g of 3-nitratopropyl 3-aminocrotonate, 7.8 g of 2-cyanoethyl acetoacetate and 7.7 g of 2-nitrobenzaldehyde in 77 ml of isopropyl alcohol were heated at reflux for 8 hours, and the isopropyl alcohol was evaporated under reduced pressure. The residue was applied to a silica gel column chromatography (eluent: dichloromethane) and recrystallized from a mixture of dichloromethane and diethyl ether to give 16.2 g of 2,6-dimethyl-4-(2-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-(2-cyanoethyl) ester 5-(3-nitratopropyl) ester.

reactant | 3-aminocrotonate | 10.2 g | N\C(=C/C(=O)[O-])\C
reactant | 2-cyanoethyl acetoacetate | 7.8 g | C(CC(=O)C)(=O)OCCC#N | C7H9NO3
reactant | 2-nitrobenzaldehyde | 7.7 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
solvent | isopropyl alcohol | 77 ml | C(C)(C)O | C3H8O
product | 2,6-dimethyl-4-(2-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-(2-cyanoethyl) ester | 16.2 g | C(#N)CCOC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)[N+](=O)[O-])C(=O)O)C)C | C18H17N3O6
